US05977105
e) (±)-5-(3-Pyridyl)pent-1-yn-3-ol
Solid potassium carbonate (1.5 g) was added to a solution of (±)-5-(3-pyridyl)-1-(trimethylsilyl)pent-1-yn-3-ol (2.9 g) in methanol (50 ml) and the mixture stirred at room temperature for 24 hours. The methanol was removed under reduced pressure and water was added. The mixture was extracted with dichloromethane, the extracts dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with ethyl acetate to give the sub-title compound as an oil (1.8 g) which was used immediately.

reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | (±)-5-(3-pyridyl)-1-(trimethylsilyl)pent-1-yn-3-ol | 2.9 g | N1=CC(=CC=C1)CCC(C#C[Si](C)(C)C)O | C13H19NOSi
solvent | methanol | 50 ml | CO | CH4O
product | (±)-5-(3-Pyridyl)pent-1-yn-3-ol | 1.8 g | N1=CC(=CC=C1)CCC(C#C)O | C10H11NO
